US09403798B2
1-[4-(Difluoromethoxy)benzyl]-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one
To an acetonitrile (1.0 mL)-water (1.0 mL) solution of 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-hydroxybenzyl)-1,3,5-triazin-2(1H)-one (15.0 mg, 0.0396 mmol) synthesized in Synthesis Example 483a, potassium hydroxide (44.5 mg, 0.793 mmol) was added and while stirring the resultant reaction solution at −78° C., to the reaction solution, diethyl(bromodifluoromethyl)phosphonate (14.1 μL, 0.0794 mmol) was added, followed by stirring the resultant reaction solution at room temperature for 2 and a half hours. After the completion of the reaction, extraction with diethyl ether from the reaction solution was performed. The organic layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography to obtain the title compound (2.10 mg, yield: 11%).

reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
reactant | 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-hydroxybenzyl)-1,3,5-triazin-2(1H)-one | 0.0396 mmol, 15.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)O)=O | C21H19FN4O2
reactant | potassium hydroxide | 0.793 mmol, 44.5 mg | [OH-].[K+]
reactant | diethyl(bromodifluoromethyl)phosphonate | 0.0794 mmol, 14.1 μL | C(C)OP(OCC)(=O)C(F)(F)Br | C5H10BrF2O3P
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 1.0 mL | O | H2O
product | 1-[4-(Difluoromethoxy)benzyl]-4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1,3,5-triazin-2(1H)-one | 2.10 mg, yield: 11% | FC(OC1=CC=C(CN2C(N=C(N=C2)N2CC=C(CC2)C2=CC=C(C=C2)F)=O)C=C1)F | C22H19F3N4O2
